* Z:\home\grzegorz\Studia\DiplomaThesis\STM32-PLC\Documentation\LTspiceSims\AnalogInSim\analog_input.asc
V1 IN 0 SINE(0 10 40)
R1 IN 0 100k
R2 N004 IN 1k
C1 N004 0 100n
V2 N005 0 -12
V3 N003 0 12
R3 OUT N001 20.3k
R4 OUT 0 10k
R5 N002 OUT 20.3k
R6 N002 OUT 10k
V4 N002 0 3.3
D1 IN 0 EDZV11B
D2 0 OUT BZX84C6V2L
XU2 N004 N001 N003 N005 N001 NC_01 NC_02 LT1008
.model D D
.lib C:\users\grzegorz\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1 startup
.lib LTC.lib
.backanno
.end
