* Z:\home\grzegorz\Studia\DiplomaThesis\STM32-PLC\Documentation\LTspiceSims\DigitalOutSim\digital_output.asc
V1 IN 0 PULSE(0 3.3 10ms 0.5ms 0.5ms 5ms 10ms)
R1 N005 IN 1k
M1 N004 N005 0 0 Si7336ADP
XU1 N003 N004 N001 OUT NC_01 CNY17 Igain=.724m
R2 N003 N002 1k
V3 N001 0 24
R3 OUT 0 47k
V2 N002 0 3.3
R4 N005 N006 220
D1 N006 0 NSCW100
.model D D
.lib C:\users\grzegorz\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\grzegorz\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 100ms startup
.lib CNY17.sub
.backanno
.end
